US04169157
Synthesis of 3-acetyl-6,10,14-trimethyl-pentadecane-2-on
10 Grams of 3-acetyl-6,10,14-trimethyl-5,9,13-pentadecatriene-2-on (Compound No. 2 in the Table) were dissolved in 10 g of dioxane, and one gram of 5% palladium-carbon was added to the solution. The mixture was catalytically reduced in hydrogen flow at an ordinary temperature under atmospheric pressure. After the reaction was completed, the palladium-carbon was filtered off, and the filtrate was subjected to distillation under the reduced pressure, to obtain 10 g of oily product. The product was purified by the column chromatography method as described in Example 1.

reactant | 3-acetyl-6,10,14-trimethyl-5,9,13-pentadecatriene-2-on | C(C)(=O)C(C(C)=O)CC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
solvent | dioxane | 10 g | O1CCOCC1 | C4H8O2
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | one gram | [C].[Pd]
product | 3-acetyl-6,10,14-trimethyl-pentadecane-2-on | 10 g | C(C)(=O)C(C(C)=O)CCC(CCCC(CCCC(C)C)C)C | C20H38O2
